US07741327B2
A mixture of naphthalen-1-ol (1.28 g, 8.91 mmol) and ethyl-2-butynoate (2.0 g, 17.8 mmol) in tetrahydrofuran (13.7 mL) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (1.33 mL, 8.91 mmol). The reaction was then heated at 130° C. for 1.5 h. At this time, the reaction was cooled to 25° C. and was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was dissolved in dichloromethane (40 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a 0.5N aqueous sodium hydroxide solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL). The organics were then dried over sodium sulfate, filtered, rinsed with dichloromethane and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 5-10% ethyl acetate/hexanes) afforded 3-(naphthalen-1-yloxy)-but-2-enoic acid ethyl ester (1.16 g, 50%) as a clear oil: HR-ES-MS m/z calculated for C16H16O3 [M+H]+ 257.1172, observed 257.1172; 1H NMR (300 MHz, DMSO-d6), δ ppm 1.04 (t, J=7.1 Hz, 3H), 2.60 (s, 3H), 3.93 (q, J=7.1 Hz, 2H), 4.52 (s, 1H), 7.31 (d, J=7.2 Hz, 1H), 7.53-7.65 (m, 3H), 7.78-7.84 (m, 1H), 7.90 (d, J=8.2 Hz, 1H), 7.99-8.07 (m, 1H).

reactant | naphthalen-1-ol | 8.91 mmol, 1.28 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | ethyl-2-butynoate | 17.8 mmol, 2.0 g | C(C)OC(C#CC)=O | C6H8O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.91 mmol, 1.33 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 13.7 mL | O1CCCC1 | C4H8O
product | 3-(naphthalen-1-yloxy)-but-2-enoic acid ethyl ester | 1.16 g, 50% | C(C)OC(C=C(C)OC1=CC=CC2=CC=CC=C12)=O | C16H16O3
